US05578627
To a solution of 0.61 g of 5-amino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 18 ml of methanol are added 1.3 ml of a dioxane solution (2.2N) of hydrogen chloride and 0.49 g of 37% formalin at 20°-25° C., and then, 0.19 g of sodium cyanoborohydride is added at 15°-20° C., after which they are subjected to reaction at the same temperature for 30 minutes. Ethyl acetate and water are added to the reaction mixture and the pH is adjusted to 10 with an aqueous sodium hydroxide solution, after which the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=3:2], to obtain 0.60 g of brown, oily 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-dimethylamino-1,2-benzoisoxazole.

reactant | 5-amino-3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 0.61 g | NC=1C=CC2=C(C(=NO2)OCC(CO)NC(=O)OC(C)(C)C)C1 | C15H21N3O5
reactant | hydrogen chloride | Cl | ClH
reactant | formalin | 0.49 g | C=O | CH2O
reactant | sodium cyanoborohydride | 0.19 g | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 18 ml | CO | CH4O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 2.2N, 1.3 ml | O1CCOCC1 | C4H8O2
product | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-5-dimethylamino-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)N(C)C)CO | C17H25N3O5
